US04891432
To a mixture of 523 mg 2-mercaptopyrimidine and 25 ml anhydrous N,N-diemthylformamide, were added 640 mg anhydrous potassium carbonate and 2 g ethyl 6-[p-(5-bromopentyloxy)phenoxy]-2,2-dimethylhexanoate, and the resulting mixture was stirred at room temperature for 12 hours. The solvent was distilled off under reduced pressure, the residue was extracted with chloroform, and the extract was washed with water and dried. The chloroform was distilled off, and the residue was purified by silica gel column chromatography (chloroform), affording 740 mg ethyl 6-[p-[5-(2-pyrimidylthio)pentyloxy]phenoxy]-2,2-dimethylhexanoate as oil.

reactant | 2-mercaptopyrimidine | 523 mg | SC1=NC=CC=N1 | C4H4N2S
reactant | potassium carbonate | 640 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 6-[p-(5-bromopentyloxy)phenoxy]-2,2-dimethylhexanoate | 2 g | BrCCCCCOC1=CC=C(OCCCCC(C(=O)OCC)(C)C)C=C1 | C21H33BrO4
product | ethyl 6-[p-[5-(2-pyrimidylthio)pentyloxy]phenoxy]-2,2-dimethylhexanoate | 740 mg | N1=C(N=CC=C1)SCCCCCOC1=CC=C(OCCCCC(C(=O)OCC)(C)C)C=C1 | C25H36N2O4S
